US04411900
A mixture of 2-acetamido-4-[2-(4-benzhydrylpiperazin-1-yl)ethyl]thiazole (3.75 g), methanol (26 ml) and conc. hydrochloric acid (13 ml) was refluxed under heating for 2.5 hours. After concentration of the reaction mixture, the concentrate was recrystallized from methanol to obtain white crystals (3.4 g) of 2-amino-4-[2-(4-benzhydrylpiperazin-1-yl)ethyl]thiazole trihydrochloride, mp 188°-190° C.

reactant | 2-acetamido-4-[2-(4-benzhydrylpiperazin-1-yl)ethyl]thiazole | 3.75 g | C(C)(=O)NC=1SC=C(N1)CCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H28N4OS
reactant | hydrochloric acid | 13 ml | Cl | ClH
solvent | methanol | 26 ml | CO | CH4O
product | 2-amino-4-[2-(4-benzhydrylpiperazin-1-yl)ethyl]thiazole trihydrochloride | 3.4 g | Cl.Cl.Cl.NC=1SC=C(N1)CCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H26N4S.3ClH/c23-22-24-20(17-27-22)11-12-25-13-15-26(16-14-25)21(18-7-3-1-4-8-18)19-9-5-2-6-10-19;;;/h1-10,17,21H,11-16H2,(H2,23,24);3*1H
